US05292886
A solution of 30.06 g (0.18 mole) of 2,3,5-trimethyl-4-methoxypyridine N-oxide in 100 ml of methylene chloride was added slowly (over approximately one hour) over a solution of 0.38 g of dimethylaminopyridine in 53.4 ml (0.565 mole) of acetic anhydride, heated to 90°-95° C., with the temperature being held within the abovementioned range and the methylene chloride being removed by distillation. At the end of the addition, the distillation was continued for a further 10 minutes, the mixture was cooled to below 90° C. and 7.5 ml of water were added slowly, holding the temperature below 90° C. Crude 2-acetoxymethyl-3,5-dimethyl-4-methoxypyridine was obtained by distillation at reduced pressure and was used directly as starting product for the hydrolysis (Example 2).

reactant | 2,3,5-trimethyl-4-methoxypyridine N-oxide | 0.18 mole, 30.06 g | CC1=[N+](C=C(C(=C1C)OC)C)[O-] | C9H13NO2
reactant | dimethylaminopyridine | 0.38 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.565 mole, 53.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-acetoxymethyl-3,5-dimethyl-4-methoxypyridine | C(C)(=O)OCC1=NC=C(C(=C1C)OC)C | C11H15NO3
